*	|==========================================================
*	|
*	|
*	|
*	|			   CS51411
*	|
*	|			ON SEMICONDUTOR
*	|
*	|		 1.5A 260kHz, Low Voltage, Buck Regulator
*	|	 with External Synchronization Capability
*	|
*	|
*	|	This model was developed by
*	|
*	|	AEI (Analytic Engineering)
*	|
*	|	182 Morris Avenue
*	|
*	|	Holtsville, NY 11742
*	|
*	|	Copyright 2001 AEI
*	|
*	|	All Rights Reserved
*	|
*	|
*	|
*	|	The content of this model is subject to change
*	|
*	|	without notice and may not be modified or altered
*	|
*	|	without permission from On Semiconductor. This model
*	|
*	|	has been carefully checked and is believed to be
*	|
*	|	accurate, however neither AEI nor On Semiconductor
*	|
*	|	assume liability for the use of this model or the
*	|
*	|	results obtained from using it.
*	|
*	|
*	|
*	|	For more information regarding modeling services,
*	|
*	|	model libraries or simulation productors, please
*	|
*	|	call AEI at (631) 654-0253 ext 116 or 106.
*	|
*	|	email: Sales@aeng.com.
*	|
*	|
*	|
*	|==========================================================
**SPICE MODEL DESIGNER: KEHINDE OMOLAYO 9-19-01
**********
*SRC=CS51411;CS51411;ON SEMI;;Buck Regulator
*SYM=CS51411
.SUBCKT CS51411 1 2 3 4 5 0 7 8
*TERMINAL ID#
*BOOST=1 VIN=2 VSW=3 SHDNB=4 SYNC=5
*GND=0 VFB=7 VC=8
.MODEL D51411 D (RS=0.78 N=0.005 IS=7.075E-9 
+ CJO=4P TT=7.2N M=.4 VJ=.657 BV=100 IBV=100U)
.MODEL D51411A D (RS=0.78 N=1.95 IS=7.075E-9 
+ CJO=4P TT=7.2N M=.4 VJ=.657 BV=100 IBV=100U)
.MODEL D51411B D (RS=0.78 N=0.2 IS=7.075E-9 
+ CJO=4P TT=7.2N M=.4 VJ=.657 BV=100 IBV=100U)
.MODEL D51411D D CJO=2P
.MODEL VS51411 SW (VT=1 RON=0.28 ROFF=1MEG
.SUBCKT RS51411 2 3 4 5 {TD=1N}
C1 11 0 10P
R3 10 8 {TD/6.9315P}
C3 8 0 10P
B1 10 0 V=V(2)>1 ? V(5)>1 ? 0 : 2
B2 16 0 V=V(3)>1 ? V(4)>1 ? 0 : 2
B5 4 0 V=V(8)>1 ? 2 : 0
B6 5 0 V=V(11)>1 ? 2 : 0
R1 16 11 {TD/6.9315P}
.ENDS
.SUBCKT LIMIT51411 1 2
*PARAMETERS ARE GAIN={K} 
*POS LIMIT = {PLIM}  NEG LIMIT = {NLIM}
RIN 1 0 1E12
E1 3 0 0 1 {K}
RC1 2 4 1MEG
C1 2 4 1F IC=0
R1 3 4 1MEG
E2 2 0 0 4 1E6
*DIODES WILL HAVE .0597V DROP AT 10V INPUT FOR GAIN=1
*IDIODE = IS*EXP(.597/.O26)
VN 5 2 {NLIM-.0597}
DN 4 5 DN
.MODEL DN D(IS=1E-12 N=.14319)
VP 2 6 {PLIM-.0597}
DP 6 4 DN
.ENDS
D1 2 10 D51411D
D2 1 10 D51411D
B1 10 0 I=V(23)<1 ? V(55)<1 ? V(9)>1 ? ABS(V(53)) : 0
V1 51 3 0.2
X1 13 14 LIMIT51411 {K=1 PLIM=100 NLIM=100 }
B2 13 0 V=158.321*(I(V1)-0.765)
V3 9 0 PULSE 0 2 0.1U
X4 20 11 21 22 RS51411 {TD=1N }
B8 11 0 V=V(9)<1 ? 0 : V(20)<1 ? 2 : V(15)
B9 20 0 V=V(9)<1 ? 2 : V(48)
I1 24 4 5U
D6 4 24 D51411A
V6 24 0 5
B10 23 0 V=V(4)>1.3 ? 0 : 2
R2 0 8 8MEG
B11 27 0 I=50U/(1+EXP(V(25)))
D7 0 27 D51411
C1 0 8 2N
X5 28 25 LIMIT51411 {K=1 PLIM=100 NLIM=100 }
E1 28 0 30 7 512
D8 8 32 D51411B
V8 32 0 1.46
D9 8 27 D51411B
D10 0 8 D51411A
V9 30 0 1.27
I2 32 8 25U
B12 26 0 V=V(7)<0.32 ? 2 : 0
B13 29 0 V=V(26)>1 ? I(V1)>1.5 ? 2 : I(V1)>2.3 ? 2 : 0
R4 29 31 17.312K
C2 31 0 10P
B14 33 0 V=V(31)>1 ? 2 : 0
B15 34 0 V=V(8)<(V(7)+35.3M*(V(39)-1.667)) ? 2 : 0
R5 34 35 21.64K
C3 35 0 10P
B16 36 0 V=V(35)>1 ? 2 : 0
V10 37 0 1.4M
B17 38 0 V=V(45)<1 ? 2 : V(5)>1.5 ? 2 : 0
B18 39 0 I=V(26)>1 ? 132.375U*(2-V(48)) : 529.5U*(2-V(48))
B19 40 0 V=V(45)<1 ? 2 : V(39)>3.333 ? 0 : V(47)
C4 39 0 216P
X6 45 40 48 44 RS51411 {TD=1N }
B20 45 0 V=V(9)<1 ? 0 : V(39)<1.7 ? 0 : V(23)<1 ? V(55)<1 ? 2 : 0
X7 45 38 46 43 RS51411 {TD=1N }
R6 5 37 13.9K
B21 49 0 V=V(38)>1 ? V(50)>1 ? 0 : 2
B22 50 0 V=V(45)>1 ? V(43)>1 ? 2 : 0
X8 50 49 47 41 RS51411 {TD=1N }
V11 42 0 1.66
B23 24 39 I=V(26)>1 ? 26.4825U : 105.93U
D11 42 39 D51411
D12 39 24 D51411
B24 54 0 V=(I(V1)-0.625)/28.5/(1+EXP(-V(17)))
B28 55 0 V=V(2)>3.3 ? 0 : 2
B29 15 0 V=V(36)<1 ? V(33)<1 ? V(23)<1 ? V(55)<1 ? 2 : 0
S1 2 51 63 0 VS51411 
X9 18 17 LIMIT51411 {K=1 PLIM=100 NLIM=100 }
B30 18 0 V=32.222*(I(V1)-1.154)
X10 62 19 LIMIT51411 {K=1 PLIM=100 NLIM=100 }
B31 62 0 V=-20.515*(I(V1)+44M)
B32 0 51 I=V(23)<1 ? V(55)<1 ? V(9)>1 ? 10M : 0
D17 51 2 D51411D
B33 53 52 V=(I(V1)+1.233)/133.333/(1+EXP(V(14)))/(1+EXP(V(19)))
B34 52 54 V=(I(V1)+0.457)/80.863/(1+EXP(-V(14)))/(1+0.8*EXP(V(17)))
R14 10 0 10MEG
B35 63 0 V=V(21)>1 ? V(48) : 0
.ENDS
