*	|==========================================================
*	|
*	|
*	|
*	|			   CS5155 Rev A
*	|
*	|			ON SEMICONDUTOR
*	|
*	|		 CPU 5-Bit Synchronous Buck Controller
*	|
*	|
*	|
*	|	This model was developed by
*	|
*	|	AEI (Analytic Engineering)
*	|
*	|	182 Morris Avenue
*	|
*	|	Holtsville, NY 11742
*	|
*	|	Copyright 2001 AEI
*	|
*	|	All Rights Reserved
*	|
*	|
*	|
*	|	The content of this model is subject to change
*	|
*	|	without notice and may not be modified or altered
*	|
*	|	without permission from On Semiconductor. This model
*	|
*	|	has been carefully checked and is believed to be
*	|
*	|	accurate, however neither AEI nor On Semiconductor
*	|
*	|	assume liability for the use of this model or the
*	|
*	|	results obtained from using it.
*	|
*	|
*	|
*	|	For more information regarding modeling services,
*	|
*	|	model libraries or simulation productors, please
*	|
*	|	call AEI at (631) 654-0253 ext 116 or 106.
*	|
*	|	email: Sales@aeng.com.
*	|
*	|
*	|
*	|==========================================================
**SPICE MODEL DESIGNER: KEHINDE OMOLAYO 9-20-01
**********
*SRC=CS5155;CS5155;ON SEMI;;Synchronous Buck Controller
*SYM=CS5155
.SUBCKT CS5155 1 2 3 4 5 6 7 8 9 10 11 12 13 0 15 16
*TERMINAL IDENTIFICATION #:
*VID0=1 VID1=2 VID2=3 VID3=4 SS=5 VID4=6 COFF=7
*VFFB=8 VCC2=9 VGATE(H)=10 PGnd=11 VATE(L)=12 
*VCC1=13 LGnd=0 COM=15 VFB=16
*VID0=1 VID1=2 VID2=3 VID3=4 SS=5 VID4=6 COFF=7
*VFFB=8 VCC2=9 VGATE(H)=10 PGND=11 VATE(L)=12 
*VCC1=13 LGND=0 COM=15 VFB=16
.MODEL D5155 D (RS=0.78 N=0.005 IS=7.075E-9 
+ CJO=4P TT=7.2N M=.4 VJ=.657 BV=100 IBV=100U)
.MODEL D5155A D (RS=0.78 N=1.95 IS=7.075E-9 
+ CJO=4P TT=7.2N M=.4 VJ=.657 BV=100 IBV=100U)
.MODEL D5155B D (RS=0.78 N=0.5 IS=7.075E-9 
+ CJO=4P TT=7.2N M=.4 VJ=.657 BV=100 IBV=100U)
.MODEL Q5155 NPN (IS=15.2F NF=1 BF=500 VAF=98.5 IKF=.5
+ ISE=8.2P NE=2 BR=4 NR=1 VAR=20 IKR=.225 RE=.01 RB=1.49
+ RC=.01 XTB=1.5 CJE=35.5P CJC=5P TF=500P TR=2N)
.MODEL VCC1_5155 SW (VT=3.875 VH=0.025 RON=1 ROFF=1MEG
.SUBCKT RS5155 2 3 4 5 {TD=1N}
*RS LATCH FLIP FLOP TERMINAL ID#
C1 11 0 10P
R3 10 8 {TD/6.9315P}
C3 8 0 10P
B1 10 0 V=V(2)>1 ? V(5)>1 ? 0 : 2
B2 16 0 V=V(3)>1 ? V(4)>1 ? 0 : 2
B5 4 0 V=V(8)>1 ? 2 : 0
B6 5 0 V=V(11)>1 ? 2 : 0
R1 16 11 {TD/6.9315P}
.ENDS
.SUBCKT LIMIT5155 1 2
*PARAMETERS ARE GAIN={K} 
*POS LIMIT = {PLIM}  NEG LIMIT = {NLIM}
RIN 1 0 1E12
E1 3 0 0 1 {K}
RC1 2 4 1MEG
C1 2 4 1F IC=0
R1 3 4 1MEG
E2 2 0 0 4 1E6
*DIODES WILL HAVE .0597V DROP AT 10V INPUT FOR GAIN=1
*IDIODE = IS*EXP(.597/.O26)
VN 5 2 {NLIM-.0597}
DN 4 5 DN
.MODEL DN D(IS=1E-12 N=.14319)
VP 2 6 {PLIM-.0597}
DP 6 4 DN
.ENDS
R1 4 0 1G
R2 3 0 1G
R3 2 0 1G
R4 1 0 1G
R5 6 0 1G
R6 17 6 50K
D1 18 19 D5155A
R7 19 4 50K
D2 18 20 D5155A
R8 20 3 50K
D3 18 21 D5155A
R9 21 2 50K
D4 18 22 D5155A
R10 22 1 50K
D5 18 17 D5155A
S1 18 23 13 0 VCC1_5155
R11 23 0 100K
B1 18 0 V=5/(1+EXP(1.43*(3.5-V(13))))
B2 25 0 V=V(1)>1.25 ? 50M : 0
B3 24 25 V=V(2)>1.25 ? 0.1 : 0
B4 26 24 V=V(3)>1.25 ? 0.2 : 0
B5 28 26 V=V(4)>1.25 ? 0.4 : 0
B6 29 0 V=V(6)>1.25 ? V(28)>0.725 ? 1.244*V(18)/5 : 
+ V(6)>1.25 ? (3.54-2*V(28))*V(18)/5 : (2.09-V(28))*V(18)/5
B7 18 5 I=30U*(2-V(33))
B8 5 0 I=V(23)>2.5 ? V(32)>1 ? 1U*V(33) : 1M
X1 27 31 33 34 RS5155 {TD=1N }
B9 27 0 V=V(31)<1 ? 2 : V(5)>2.5 ? V(51)>1 ? 0 : 2
B10 31 0 V=V(32)<1 ? 0 : V(5)<0.7 ? 0 : 2
V2 32 0 PULSE 0 2 0.1U
D6 0 5 D5155
R15 0 15 496K
D9 41 65 D5155A
B13 37 0 I=1.275M*V(32)/(1+50*EXP(V(39)))
D10 0 37 D5155
C2 15 0 0.22U IC=0.16
X2 38 39 LIMIT5155 {K=1 PLIM=100 NLIM=100 }
E1 38 0 29 16 100
V3 35 0 1.05
X3 48 42 63 47 RS5155 {TD=1N }
B16 48 0 V=V(42)<1 ? 2 : V(53)>1 ? 2 : 0
B17 42 0 V=V(32)>1 ? V(44)<1 ? V(43) : 0
B18 44 0 V=2/(1+EXP(V(30)))
B20 51 0 V=V(8)<1 ? 2 : 0
R18 90 50 4K
C4 50 0 10P
B21 52 0 V=V(50)>1 ? 2 : 0
B22 90 0 V=V(46)>1 ? V(23)>2.5 ? V(34)>1 ? 2 : 0
B23 53 0 V=V(7)>3.333 ? V(58)<1.667 ? 0 : 2
B24 18 7 I=V(51)>1 ? 34.375U*(2-V(46)) : 171.874U*(2-V(46))
D12 7 18 D5155
R19 15 41 350
B27 7 0 I=V(51)>1 ? V(46)*34.375U : 4M*V(46)
D13 61 7 D5155
D14 58 18 D5155
B28 58 0 I=V(51)>1 ? 5U*(2-V(46)) : 4M*(2-V(46))
D15 61 58 D5155
C6 58 0 180P
B29 18 58 I=5U*V(46)
V4 61 0 1.65
B30 43 0 V=V(7)<1.667 ? V(58)>3.333 ? 0 : 2
E2 66 11 70 71 1
Q1 72 73 70 Q5155
Q2 74 75 11 Q5155
V5 66 76 
R22 71 73 1
R23 76 75 1
V6 77 10 
B36 70 71 I=15M*V(78)+I(V5)
R24 11 10 50K
D16 11 10 D5155A
D17 77 74 D5155A
D18 70 77 D5155A
E3 72 11 9 11 1
E4 60 11 36 59 1
Q3 83 84 36 Q5155
Q4 85 86 11 Q5155
V8 60 87 
R25 59 84 1
R26 87 86 1
V9 88 12 
B37 36 59 I=15M*V(89)+I(V8)
R27 11 12 50K
D19 11 12 D5155A
D20 88 85 D5155A
D21 36 88 D5155A
E5 83 11 13 11 1
B38 89 0 V=V(52)<1 ? V(10)<2 ? 1 : -1
B39 78 0 V=V(52)>1 ? V(12)<2 ? 1 : -1
B40 9 11 I=I(V6)<0 ? 0 : I(V6)*V(32)/2
B41 13 11 I=I(V9)<0 ? 0 : I(V9)*V(32)/2
B42 13 0 I=1.19M*V(32)*V(18)
X7 5 65 LIMIT5155 {K=1 PLIM=4 NLIM=0.3}
D22 40 15 D5155B
D23 40 35 D5155B
I1 35 40  0.95M
D24 15 37 D5155B
I2 18 15  50U
D8 5 18 D5155
X8 57 30 LIMIT5155 {K=1 PLIM=100 NLIM=100 }
E6 57 0 15 8 2K
R30 63 46 1K
C12 46 0 10P
*DESIGNER: KEHINDE OMOLAYO 9-20-01
.ENDS
